US07750161B2
C13.3. (2-Ethyl-6-methyl-pyridin-4-yl)-carbamic acid pentafluorophenyl ester
A solution of 2-ethyl-6-methyl-pyridin-4-ylamine (1.33 g, 9.8 mmol) in THF (25 mL) is slowly added to a solution of bis(pentafluorophenyl)carbonate (3.99 g, 10.1 mmol) in THF (10 mL). The mixture is stirred at r.t. for 48 h and the solution of title compound is used as stock solution for subsequent coupling reactions.

reactant | 2-ethyl-6-methyl-pyridin-4-ylamine | 9.8 mmol, 1.33 g | C(C)C1=NC(=CC(=C1)N)C | C8H12N2
reactant | bis(pentafluorophenyl)carbonate | 10.1 mmol, 3.99 g | FC1=C(C(=C(C(=C1OC(OC1=C(C(=C(C(=C1F)F)F)F)F)=O)F)F)F)F | C13F10O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-Ethyl-6-methyl-pyridin-4-yl)-carbamic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(NC1=CC(=NC(=C1)C)CC)=O)F)F)F)F | C15H11F5N2O2
